US04800201
(ii) Preparation of 5-methyl-6-(3-formyl-4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
A mixture of 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-formyl-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one (0.5 g) and sulfur (2.5 g) was stirred at 160° C. for 3 hours. After cooling, the solid was ground and was extracted with methanol using Soxhlet extractor. Methanol was removed under reduced pressure. The residue was extracted with 40 ml of 2N hydrochloric acid. The insoluble matter was removed by filtration and the filtrate was washed with ether and the water phase was adjusted to pH 7.5 by 2N aqueous sodium hydroxide. The resulting precipitates were extracted with chloroform and were dried. Chloroform was removed under reduced pressure and the residue was purified by the preparative thin layer chromatography [TLC silica gel plate 60F254 (supplied by Merck & Co. Inc., U.S.A.), 20×20 cm, thickness 1 mm, chloroform-methanol=40:1] to give the titled compound (0.03 g, yield 10.6%) as pale yellow crystals.

reactant | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-formyl-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 0.5 g | CC=1NC(CSC1C1C(=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl)C=O)=O | C14H13Cl3N2O4S
reactant | sulfur | 2.5 g | [S] | S
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 5-methyl-6-(3-formyl-4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.03 g, yield 10.6% | CC=1NC(CSC1C1=C(C=NC=C1)C=O)=O | C11H10N2O2S
